Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, diarrhea 
 
Major Surgical or Invasive Procedure:
Flex Sig ___

 
History of Present Illness:
___ y.o. man visiting from ___ with HTN, HL, and ulcerative 
colitis on mesalamine, azathioprine, and methylprednisolone 
taper presenting with nausea, vomiting, and diarrhea.

The patient was diagnosed with ulcerative colitis in ___ during 
which he presented with hematochezia and abdominal pain. He was 
initially managed on mesalamine and at some point azathioprine 
was added to his regimen. In the past year, the patient reports 
increasing UC flares (about ___ per year) and is intermittently 
managed with methylprednisolone tapers. The patient and his 
family reports that his gastroenterologist plans to start a 
biologic when he returns to the ___. He reports a mild to 
moderate UC flare in mid ___ during which he was 
started on Methylpred taper at 60 mg PO QDaily. The patient 
reports he has regular surveillance colonoscopies and denies any 
complications
such as bowel obstructions, stenosis, or extraintestinal 
manifestations of UC. 

The patient came to the ___.S. to visit his daughter. He arrived 
on ___. Shortly after, he started to experience nausea and 
nonbloody, nonbilious emesis. Patient reports emesis became 
progressively darker in color but no frank blood. This was 
followed by several episodes of watery, voluminous stool 
(reports every hour). He denied any associated abdominal pain, 
hematochezia, or melena. The patient reports that due to his 
nausea and vomiting, he has not been able to successfully take 
his medications including his methylprednisolone. He denies any 
associated fevers, chills, joint pain, or rashes. 

With these symptoms, the patient was seen at ___ 
urgent care on ___. Labs were notable for Cr 1.8 and the 
patient received IV fluids. He returned to urgent care and found 
to have Cr 2.8. Stool O+P and infectious stool studies 
reportedly sent. In the setting of worsened ___ and continued 
symptoms, the patient presented to the ___ ED. 

In ED, initial VS were: T 97.2 HR 97 BP 109/65 RR 16 SpO2 100% 
RA. Exam notable for guiaic positive stools but no major 
abdominal pain. Initial labs notable for Na 127, Cr 1.5, H/H 
14.6/43.8, and lactate 3.8. Lactate improved to 1.8 with fluids. 
UA bland. Abd CT notable for wWall thickening involving the
sigmoid colon and rectum with prominence of the Vasa recta and 
mild surrounding inflammation compatible with active colitis. In 
the ED, the patient received 2L NS, IV Zofran 4 mg, PO Diazepam 
5 mg, IV Cipro 400, IV Flagyl 500, IV D5NS + 20 mEq K.

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 
Past Medical History:
-Hypertension
-Hyperlipidemia
-Ulcerative Colitis (diagnosed in ___ on Asacol/Azathioprine, 
on
methylpred taper) 

 
Social History:
___
Family History:
Denies family history of IBD or other GI disorder. Brother with 
cardiac valvular disease requiring aortic valve replacement 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: T 97.2 HR 97 BP 109/68 RR 16 SpO2 100% RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated  
CV: tachycardic normal S1 + S2, no murmurs, rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: WWP, 2+ DP,  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation 

DISCHARGE PHYSICAL EXAM:
Vitals: T: 98.1 BP: 116/71 P: 88 R: 18 O2: 94%   
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTA b/l, no wheezes, rales, rhonchi  
CV: RRR, nl S1 S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: WWP, DP 2+ b/l, no edema  
Skin: no rash 
Neuro: CN ___ grossly intact 
 
Pertinent Results:
ADMISSION LABS:
___ 01:45AM BLOOD WBC-8.3 RBC-4.45* Hgb-14.6 Hct-43.8 
MCV-98 MCH-32.8* MCHC-33.3 RDW-13.3 RDWSD-48.6* Plt ___
___ 01:45AM BLOOD Neuts-77.5* Lymphs-8.1* Monos-14.0* 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-6.43* AbsLymp-0.67* 
AbsMono-1.16* AbsEos-0.01* AbsBaso-0.01
___ 01:45AM BLOOD Glucose-114* UreaN-45* Creat-1.5* Na-127* 
K-3.4 Cl-86* HCO3-26 AnGap-18
___ 06:05AM BLOOD Calcium-8.5 Phos-3.9 Mg-2.0
___ 01:57AM BLOOD Lactate-3.8*

PERTINENT INTERVAL LABS:
___ 06:05AM BLOOD CRP-18.2*
___ 06:05AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative HAV Ab-Positive* IgM HAV-Negative
___ 06:05AM BLOOD HCV Ab-Negative
___ 06:12AM BLOOD Lactate-1.8

DISCHARGE LABS:
___ 03:18PM BLOOD WBC-5.8 RBC-3.40* Hgb-11.6* Hct-33.8* 
MCV-99* MCH-34.1* MCHC-34.3 RDW-13.4 RDWSD-49.1* Plt ___
___ 06:05AM BLOOD Glucose-98 UreaN-23* Creat-0.9 Na-135 
K-4.1 Cl-102 HCO3-26 AnGap-11

MICROBIOLOGY: 

___ 10:10 am STOOL     CONSISTENCY: FORMED      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

___ BLOOD CULTURE: NEGATIVE

___ 6:05 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 2:59 am STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      . 
      FEW POLYMORPHONUCLEAR LEUKOCYTES. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

IMAGING/STUDIES:

CT ABD/PELVIS ___. Wall thickening involving the sigmoid colon and rectum with 
prominence of the Vasa recta and mild surrounding inflammation 
compatible with active 
colitis. 
2. Chronic changes of ulcerative colitis including loss of 
normal colonic fold pattern and mild wall thickening of the 
entire colon. 
3. No evidence of intra-abdominal abscess. 
4. Infrarenal abdominal aortic ectasia measuring 2.9 cm. 

 
Brief Hospital Course:
___ year old man visiting from ___ with HTN, HL, and ulcerative 
colitis
on mesalamine, azathioprine, and methylprednisolone taper 
presenting with nausea, vomiting, and diarrhea, found on CT 
abdomen and pelvis to have some areas of chronic and acute 
inflammation in the colon. These were evaluated by GI with a 
flex sig which showed findings more consistent with 
gastroenteritis rather than an acute flare of ulcerative 
colitis. The patient was managed with IVF, anti-emetics and high 
dose steroids x1 day and his symptoms improved. 

# Nausea, vomiting, diarrhea: The patient presented with nausea, 
vomiting and diarrhea, concerning for gastroenteritis vs. flare 
of underlying ulcerative colitis. The patient was evaluated with 
CT abdomen and pelvis which showed chronic inflammation 
throughout colon as well as areas of active inflammation in the 
sigmoid and rectum. The patient was evaluated with stool 
studies, which were negative for campylobacter, O+P, E coli 
0157:H7, vibrio and norovirus. Flex sig on ___ was thought to be 
more consistent with infectious gastroenteritis than with UC 
flre. The patient was treated with 1 day of high dose steroids 
transitioned back to his home regimen at the time of discharge. 
Symptoms were managed with anti-emetics and the patient received 
IVF for volume resuscitation see below. The patient was 
evaluated with hepatitis serologies in preparation for possible 
biologic agent for treatment in the future. These were negative 
with the exception of HAV Ab+ (HAV IgM negative). Quantiferon 
gold was indeterminate. The patient was discharged on his home 
regimen of azathioprine and mesalamine with instructions to 
follow up with his GI doctor upon return home to the ___.  

# Acute Kidney Injury: pt presented with Cr elevated to 1.5 from 
recent baseline 0.9-1.0. This was thought to be pre-renal in 
origin given history of nausea, vomiting and diarrhea. Pt was 
treated with IVF and his Cr improved. 

# Hypertension: The patient's home nifedipine was held in the 
setting of volume depletion. Given nl BPs at the time of 
discharge, this was held on discharge and the patient was 
advised to f/u in urgent care early next week for BP check and 
re-initiation of BP meds as needed (pt unable to f/u with PCP 
given he is from out of the country and will be in the ___ 
for another week). 

# HLD: continued atorvastatin  

Transitional Issues: 
- CT abdomen pelvis remarkable for infrarenal abdominal aortic 
ectasia measuring 2.9cm, please monitor with US in ___ yr, pt and 
daughter notified 
- CT abdomen and pelvis showed multiple hypodensities in the 
kidneys compatible with cysts as well as a 7mm hypodensity in 
the head of the pancreas. Please follow up with non-urgent MRI.  
Pt and daughter notified.
- f/u mucosal biopsy from flex sig 
- f/u BCx, vibrio fecal culture and O+P x1
- consider initiation of additional agent for further management 
of patient's ulcerative colitis 
- pt with f/u with PCP and GI as outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mesalamine 800 mg PO TID 
2. prednisoLONE 30 mg oral QAM 
3. Azathioprine 50 mg PO BID 
4. Atorvastatin 20 mg PO QPM 
5. NIFEdipine CR 30 mg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 20 mg PO QPM 
2. Azathioprine 50 mg PO BID 
3. Mesalamine 800 mg PO TID 
4. NIFEdipine CR 30 mg PO DAILY 
5. prednisoLONE 30 mg oral QAM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Acute Gastroenteritis, Ulcerative Colitis, Acute Kidney 
Injury 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure having you here at the ___ 
___.  You were admitted after you were experiencing 
nausea, vomiting and diarrhea. You were evaluated with lab tests 
which showed that your kidney function was slightly decreased, 
this was likely due to dehydration. You were evaluated with 
stool studies which showed no specific viral infection in your 
stool. The bacterial studies remain pending. You had a CT scan 
which showed some chronic inflammation in your colon as well as 
some acute inflammation at the end of your colon. Our 
gastroenterologists evaluated you with a flex sigmoidoscopy 
which showed mainly chronic changes from your ulcerative 
colitis. We managed your nausea and vomiting with anti-emetic 
medications. We gave you IV fluids. We treated you with a higher 
dose of steroids for 1 day.

After discharge, you should continue to take all of your 
medications. You should continue to monitor your symptoms of 
nausea and vomiting. You should try to keep up with your fluid 
intake so as not to become dehydrated. You should follow up with 
your gastroenterologists at home to consider addition of new 
medications to better control your symptoms. 

We wish you the best!
Sincerely, 
Your ___ Care Team  
 
Followup Instructions:
___